US09085555B2
(1R,3S,5S) and (1S,3S,5R)-5-Methoxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester
(1R,3S,5S) and (1S,3S,5R)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester as mixture of diastereoisomers (35:65 (1R,3S,5S)/(1S,3S,5R)) (840 mg, 2.94 mmol) were slowly added at 0° C. under Argon to a suspension of NaH (60% in mineral oil, 141 mg, 3.53 mmol) in THF (9 mL). The reaction mixture was stirred at 0° C. for 30 min and iodomethane (0.28 mL, 4.42 mmol) was added slowly at 0° C. The reaction mixture was further stirred at RT overnight. Saturated NaHCO3 and CH2Cl2 were added, the layers were separated and the aqueous one back-extracted twice with CH2Cl2. The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 2:8) to give the title compound as an unseparable mixture of diastereosisomers. TLC, Rf (c-hexane/EtOAc 1:1)=0.70; MS (UPLC/MS): 300.3 [M+H]+, 599.5 [2M+H]+; tR (HPLC conditions a): 3.45 min. The absolute stereochemistry of the diastereoisomers was tentatively assigned by NMR and based on the test results for the final compounds Example 214 and Example 184 in the biological assay.

reactant | (1S,3S,5R)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester | C(C)OC(=O)[C@H]1N([C@H]2C[C@]2(C1)CO)C(=O)OC(C)(C)C | C14H23NO5
reactant | NaH | 3.53 mmol, 141 mg | [H-].[Na+]
reactant | iodomethane | 4.42 mmol, 0.28 mL | IC | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1S,3S,5R)-5-Methoxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester | C(C)OC(=O)[C@H]1N([C@H]2C[C@]2(C1)COC)C(=O)OC(C)(C)C | C15H25NO5
